US07790709B2
Preparation of (E)-3-(6-Amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-(6-amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (223 mg, 82%) was prepared as a light, yellow powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.2 (br s, 1H), 8.35 (s, 1H), 8.21 (s, 1H), 7.52-7.39 (m, 3H), 7.24-7.01 (m, 4H), 6.41-6.16 (m, 1H), 5.05-4.85 (m, 2H), 4.29 (s, 2H), 3.74-3.68 (m, 3H), 3.10-3.00 (m, 6H), 2.10-1.82 (m, 5H); MS (ESI) m/e 404 (M+H)+.

reactant | (E)-3-(6-amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCCC1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-(6-Amino-5-pyrrolidin-1-ylmethyl-pyridin-3-yl)-N-methyl-N-(1-methyl-1H-indol-2-ylmethyl)acrylamide hydrochloride | 223 mg, 82% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(CC=1N(C2=CC=CC=C2C1)C)C)CN1CCCC1 | InChI=1S/C24H29N5O.ClH/c1-27(17-21-14-19-7-3-4-8-22(19)28(21)2)23(30)10-9-18-13-20(24(25)26-15-18)16-29-11-5-6-12-29;/h3-4,7-10,13-15H,5-6,11-12,16-17H2,1-2H3,(H2,25,26);1H/b10-9+;
